US07718654B2
tert. butyl 4-(7-benzylamino-6-chloro-4-pyrrolidin-1-yl-pteridin-2-yl)-piperazine-1-carboxylate:
1.02 g (2.40 mmol) 7-benzylamino-6-chloro-2-piperazino-4-pyrrolidino-pteridine are placed in 10 ml of tetrahydrofuran, 1.05 g (4.80 mmol) BOC-anhydride and 5 ml saturated sodium hydrogen carbonate solution are added. The mixture is stirred for 1.5 hours at ambient temperature, then evaporated down in vacuo. The aqueous residue is diluted with water, the precipitate is suction filtered, washed and dried.

reactant | 7-benzylamino-6-chloro-2-piperazino-4-pyrrolidino-pteridine | 2.40 mmol, 1.02 g | C(C1=CC=CC=C1)NC1=C(N=C2C(=NC(=NC2=N1)N1CCNCC1)N1CCCC1)Cl | C21H25ClN8
reactant | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert. butyl 4-(7-benzylamino-6-chloro-4-pyrrolidin-1-yl-pteridin-2-yl)-piperazine-1-carboxylate | C(C1=CC=CC=C1)NC1=C(N=C2C(=NC(=NC2=N1)N1CCN(CC1)C(=O)OC(C)(C)C)N1CCCC1)Cl | C26H33ClN8O2
